US07932272B2
(4-Aminomethyl-phenyl)-phenyl-amine
Next, to a solution of lithium aluminum hydride (1.17 g, 30.9 mmol) in tetrahydrofuran (60 mL) was added a solution of the obtained 4-phenylamino-benzonitrile (2.0 g, 10.3 mmol) in tetrahydrofuran (5 mL), and the solution was stirred at room temperature for 22 hours. Water was added to the reaction solution, which was then extracted with ethyl acetate, dried over anhydrous magnesium sulfate, and the solvent was evaporated to obtain the title compound (2.0 g, 98%) as an orange oil. This compound was used in the next reaction without purification.

reactant | lithium aluminum hydride | 30.9 mmol, 1.17 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-phenylamino-benzonitrile | 10.3 mmol, 2.0 g | C1(=CC=CC=C1)NC1=CC=C(C#N)C=C1 | C13H10N2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (4-Aminomethyl-phenyl)-phenyl-amine | 2.0 g, 98% | NCC1=CC=C(C=C1)NC1=CC=CC=C1 | C13H14N2
